US06762321B2
477 mg (1.20 mmol) of 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)acrylamide, 5 ml of anhydrous N,N-dimethylformamide, 180 mg (2.40 mmol) of 3-chloropropyne and 72 mg (1.80 mmol) of 60% sodium hydride were stirred at room temperature for 2 hours. Water was added to to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid, saturated aqueous sodium bicarbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 70 mg of 3-difluoromethoxy-N-[2-{3-methoxy-4-(2-propynyloxy)phenyl}ethyl]-2-(4-chlorophenyl)acrylamide (the present compound 1355).

reactant | 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-chlorophenyl)acrylamide | 1.20 mmol, 477 mg | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)O)OC)C1=CC=C(C=C1)Cl)F | C19H18ClF2NO4
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 3-chloropropyne | 2.40 mmol, 180 mg | ClCC#C | C3H3Cl
reactant | sodium hydride | 1.80 mmol, 72 mg | [H-].[Na+]
solvent | Water | O | H2O
product | 3-difluoromethoxy-N-[2-{3-methoxy-4-(2-propynyloxy)phenyl}ethyl]-2-(4-chlorophenyl)acrylamide | 70 mg | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)C1=CC=C(C=C1)Cl)F | C22H20ClF2NO4
